US04769503
In this apparatus, a mixture of 1,725 g (7.5 moles) of 4-chlorobenzotrichloride and 12 g (0.075 mole) of FeCl3 was heated to 70° C. and circulated. The introduction of 585 g (8.25 moles) of chlorine gas was then started. (chlorine gas was fed in at a rate such that no chlorine was detectable in the exit gas.) The reaction was complete after 5 hours. 2 liters of dilute hydrochloric acid were added to the reaction mixture and the organic phase was separated off, washed twice with 2 liters of water and dried over CaCl2. Subsequent fractional distillation gave 1,824 g of 3,4-dichlorobenzotrichloride (92% of theory) (98% purity according to a gas chromatogram), of boiling point 138°-140° C. at 12 mbar.

reactant | 4-chlorobenzotrichloride | 7.5 moles, 1,725 g | ClC1=CC=C(C=C1)C(Cl)(Cl)Cl | C7H4Cl4
reactant | chlorine | 8.25 moles, 585 g | ClCl | Cl2
solvent | hydrochloric acid | 2 liters | Cl | ClH
product | 3,4-dichlorobenzotrichloride | 1,824 g, 92% | ClC=1C=C(C=CC1Cl)C(Cl)(Cl)Cl | C7H3Cl5
